US04059587
Preparation of 7-[2-(3-Acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic Acid
A mixture of 7-[2-(3-hydroxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic acid (9.0 g., 0.025 mole) and acetic anhydride (6.1 g., 0.06 mole) is heated at 60° C. for 18 hours. The resulting mixture is cooled to room temperature and dissolved in ethyl acetate providing a clear solution which is extracted with an ice-cold solution of sodium hydroxide (8 g.) in water (150 ml.). The basic solution is quickly separated and acidified with concentrated hydrochloric acid. The oily acid which separates is extracted with ether. The organic extract is washed with water, dried over sodium sulfate, and filtered. Evaporation of the filtrate in vacuo at 40° to 50° C. leaves a residual oil which is purified via application to a silica gel (150 g.) column with chloroform. Elution with chloroform-methanol (99:1; v:v) provides the title compound as a colorless, viscous oil.

reactant | 7-[2-(3-hydroxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic acid | 0.025 mole, 9.0 g | OC(CCC1SCC(N1CCCCCCC(=O)O)=O)CCCCC | C18H33NO4S
reactant | acetic anhydride | 0.06 mole, 6.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(3-Acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoic Acid | C(C)(=O)OC(CCC1SCC(N1CCCCCCC(=O)O)=O)CCCCC | C20H35NO5S
